US07157447B2
2-(Aminomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide.
To a solution of intermediate 47, 2-azidomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide, (660 mg, 2.6 mmol) in tetrahydrofuran (10 mL) and water (2 mL) was added triphenylphosphine (740 mg, 2.8 mmol), and the mixture stirred under nitrogen for 1 hr. The tetrahydrofuran was evaporated in vacuo and a mixture of the residue and 6N HCl (3 mL) in MeOH (5 mL) was heated at 80° C. for 20 hrs. This was washed with CH2Cl2, and the aqueous phase basified with dilute NH4OH and extracted with CH2Cl2. The organic extract was dried (Na2SO4), filtered and concentrated to provide 210 mg (0.91 mmol, Yield 35%) of the title compound; 1H NMR (500 MHz, CDCl3) δ ppm: 2.84 (6H, s) 4.10 (2H, s) 7.23–7.29 (1H, m) 7.53–7.60 (2H, m); LC/MS m/z 233 (M+H).

reactant | 2-azidomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide | 2.6 mmol, 660 mg | N(=[N+]=[N-])CC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H11FN4O2S
reactant | triphenylphosphine | 2.8 mmol, 740 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-(Aminomethyl)-5-fluoro-N,N-dimethylbenzenesulfonamide | 0.91 mmol, 210 mg, Yield 35% | NCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H13FN2O2S
